* Zener Voltage Reference Approximation
Vin in 0 DC 10
R1 in vref 1k
D1 0 vref ZD
Rload vref 0 10k
.model ZD D BV=5.1 IBV=1m
.op
.dc Vin 5 12 0.5

.control
set noaskquit
save all
run
.endc

.end

